US08217064B2
2-(3-fluoro-4-nitro-phenyl)-4-methyl-pentanoic acid
2-(3-Fluoro-4-nitro-phenyl)-2-isobutyl-malonic acid diethyl ester (92.0 g, 0.26 mol) was dissolved in AcOH/H2O/H2SO4 (96%) (500 mL/200 mL/70 mL) and the reaction mixture was refluxed for 24 h. After cooling and evaporation, water (300 mL) was added. The reaction mixture was extracted with EtOAc (3×100 mL). The combined organic phases were washed with water (3×100 mL), brine (100 mL) and dried (MgSO4). The evaporation of solvent under reduced pressure gave a brown oil (61 g, quantitative), which was used for the next step without purification. 1H NMR (300 MHz, CDCl3/TMS): δ 8.07-8.01 (m, 1H), 7.33-7.26 (m, 2H), 3.79-3.73 (m, 1H), 2.05-1.95 (m, 1H), 1.76-1.66 (m, 1H), 1.52-1.43 (m, 1H), 0.95-0.92 (m, 6H); 13C NMR (75 MHz, CDCl3/TMS): δ 178.3, 156.0 (d, 1JCF=232.5 Hz), 147.0, 136.0, 126.2, 124.3, 118.1 (d, 2JCF=30 Hz), 49.3, 42.0, 25.8, 22.4, 22.0.

reactant | 2-(3-Fluoro-4-nitro-phenyl)-2-isobutyl-malonic acid diethyl ester | 0.26 mol, 92.0 g | C(C)OC(C(C(=O)OCC)(CC(C)C)C1=CC(=C(C=C1)[N+](=O)[O-])F)=O | C17H22FNO6
solvent | AcOH H2O H2SO4 | 500 mL | CC(=O)O.O.OS(=O)(=O)O
product | 2-(3-fluoro-4-nitro-phenyl)-4-methyl-pentanoic acid | FC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)O)CC(C)C | C12H14FNO4
